US05019577
(c) Preparation of N-[4-(3-(2,4-Diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methylbenzoyl]-(L)-glutamic acid
A solution of diethyl N-[4-(3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methylbenzoyl]-(L)-glutamate (0.70 g, 1.1 mmoles) in 1.0N sodium hydroxide (20 mL) was stirred at 55° C. under nitrogen for 18 hours. The reaction mixture was chilled (ice bath) and adjusted to pH 2.5 by the gradual dropwise addition of 6.0N hydrochloric acid. After stirring cold 2 hours, the resulting precipitate was filtered. An attempted recrystallization of the wet cake from dimethylformamide/water failed, so the solution was spin evaporated to a clear oil. The oil was mixed with pH 2.1 aqueous HCl (20 mL) and sonicated 5 minutes to obtain a cream solid which was filtered and dried to give the product; yield, 0.12 g (24%); mp 181° C. (eff.); 1H-NMR (DMSO-d6) δ 1.58 (m, 2H), 1.8-2.1 (m, 2H), 2.12 (s, 3H), 2.2-2.4 (m, 4H), 3.08 (m, 2H), 4.34 (m, 1H), 5.78 (br s, 2H), 5.94 (br s, 2H), 6.52 (d, Jo=9 Hz, 1H), 7.53 (s overlapped, 1H), 7.57 (d overlapped, Jo=10 Hz, 1H), 8.06 (d, 1H), 10.0 (v br s, 1H), 12.2 (v br s, 2H); uv (0.1N NaOH) 296 nm max (18000), 286 min (17500), 274 max (19900), 247 min (5890), 215 max (21000).

reactant | diethyl N-[4-(3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methylbenzoyl]-(L)-glutamate | 1.1 mmoles, 0.70 g | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCCNC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)C)=O | C30H40N6O9
reactant | hydrochloric acid | 6.0N | Cl | ClH
solvent | sodium hydroxide | 1.0N, 20 mL | [OH-].[Na+]
solvent | NaOH | 0.1N | [OH-].[Na+]
product | N-[4-(3-(2,4-Diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methylbenzoyl]-(L)-glutamic acid | NC=1NC(C(=C(N1)N)CCCNC1=C(C=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)C)=O | C20H26N6O6
